US04812580
(a) Preparation of the precursor: N-acetyl-2,3-dichlorophenacylamine
150 g of 2,3-dichlorobenzoyl cyanide are hydrogenated with elemental hydrogen under normal pressure at 70° C. in 1.5 l of glacial acetic acid and 84.15 g of acetic anhydride over 5 g of PtO2. After absorption of 112% of the calculated amount of hydrogen (time taken: c. 5 hours), the hydrogenation is discontinued, the reaction mixture is filtered and the filtrae is concentrated by evaporation. The residual yellow oil is crystallised by addition of hexane/diethyl ether. The crystalline product is isolated by filtration and dried. M.p. 107°-109° C. IR (solid/KBr) in cm-1 : 3300 (NH); 1735 (CO); 1650 (CO). 1H-NMR (CDCl3) in ppm: 2.08 (s, 3H); 4.55 (d, 2H); 6.2-6.6 (broad s, 1H); 7.25 (m, 3H).

reactant | 2,3-dichlorobenzoyl cyanide | 150 g | ClC1=C(C(=O)C#N)C=CC=C1Cl | C8H3Cl2NO
reactant | hydrogen | [H][H] | H2
reactant | acetic anhydride | 84.15 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 1.5 l | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 5 g | O=[Pt]=O
product | N-acetyl-2,3-dichlorophenacylamine | C(C)(=O)NCC(=O)C1=C(C(=CC=C1)Cl)Cl | C10H9Cl2NO2
